US04962109
(i) Preparation of ethyl (RS)-2-(1,1-dimethylethyl)pent-4-enoate
The reaction mixture was then allowed to warm to 0° C. before being cooled to -70° C. A solution of ethyl 3,3-dimethylbutanoate (14.4 g) in dry tetrahydrofuran (20 cm3) was then added dropwise to the reaction mixture which was maintained at -70° C. After the addition was complete, the reaction temperature was allowed to rise to -60° C. for 15 minutes, before being cooled again to -70° C. A solution of allyl bromide (13.4 g) in dry tetrahydrofuran (5 cm3) was then added in portions to the reaction mixture, which was allowed to warm to the ambient temperature, and stirred for a further 16 hours.

reactant | ethyl 3,3-dimethylbutanoate | 14.4 g | CC(CC(=O)OCC)(C)C | C8H16O2
reactant | allyl bromide | 13.4 g | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
product | ethyl (RS)-2-(1,1-dimethylethyl)pent-4-enoate | CC(C)(C)C(C(=O)OCC)CC=C | C11H20O2
